### PR TITLE
[Merged by Bors] - feat(NumberTheory/Padics/PadicVal): factorial_choose'

### PR DESCRIPTION
**Pull request by mo271**
-  [x] depends on: #5803 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5803
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 1]
```diff
@@ -613,6 +617,24 @@ theorem padicValNat_choose {n k b : ℕ} [hp : Fact p.Prime] (hkn : k ≤ n) (hn
   PartENat.natCast_inj.mp <| (padicValNat_def' (Nat.Prime.ne_one hp.out) <| choose_pos hkn) ▸
   Prime.multiplicity_choose hp.out hkn hnb
 
+/-- **Kummer's Theorem**
+Taking (`p - 1`) times the `p`-adic valuation of the binomial `n` over `k` equals the sum of the
+digits of `k` plus the sum of the digits of `n - k` minus the sum of digits of `n`, all base `p`.
+-/
+theorem sub_one_mul_padicValNat_choose_eq_sub_sum_digits {k n p : ℕ} [hp : Fact p.Prime]
+    (h : k ≤ n) : (p - 1) * padicValNat p (choose n k) =
+    (p.digits k).sum + (p.digits (n - k)).sum - (p.digits n).sum := by
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:626]: I think it might be worth having the following variant:
```suggestion
theorem sub_one_mul_padicValNat_choose_eq_sum_digits {k n : ℕ} [hp : Fact p.Prime] :
    (p - 1) * padicValNat p (choose (n + k) k) =
    (p.digits k).sum + (p.digits n).sum - (p.digits (n + k)).sum := by
```
and then proving your lemma in terms of it

Comment (mo271) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: Great. If adding this is a good idea, then perhaps also 
```
theorem multiplicity_choose' {p n k b : ℕ} (hp : p.Prime)  (hnb : log p (n + k) < b) :
    multiplicity p (choose (n + k) k) =
    ((Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card := by
```
and
```
theorem padicValNat_choose' {n k b : ℕ} [hp : Fact p.Prime] (hnb : log p (n + k) < b) :
    padicValNat p (choose (n + k) k) =
    ((Finset.Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card
 ```

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 2]
```diff
@@ -185,25 +186,37 @@ theorem multiplicity_choose_aux {p n b k : ℕ} (hp : p.Prime) (hkn : k ≤ n) :
...
+theorem multiplicity_choose' {p n k b : ℕ} (hp : p.Prime)  (hnb : log p (n + k) < b) :
+    multiplicity p (choose (n + k) k) =
+      ((Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card := by
+  have h₁ :
+    multiplicity p (choose (n + k) k) + multiplicity p (k ! * n !) =
+      ((Finset.Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card +
+        multiplicity p (k ! * n !) := by
+    rw [← hp.multiplicity_mul, ← mul_assoc]
+    have := (add_tsub_cancel_right n k) ▸ choose_mul_factorial_mul_factorial (le_add_left k n)
+    rw [this, hp.multiplicity_factorial hnb, hp.multiplicity_mul,
```
Comment (mo271) [inline Mathlib/Data/Nat/Multiplicity.lean:201]:
```suggestion
    rw [(add_tsub_cancel_right n k) ▸ choose_mul_factorial_mul_factorial (le_add_left k n), hp.multiplicity_factorial hnb, hp.multiplicity_mul,
```
putting the proof of `this` direcly in the rewrite here, does not seem to work, I get
"`tactic 'rewrite' failed, equality or iff proof expected`"

Comment (eric-wieser) [reply Mathlib/Data/Nat/Multiplicity.lean:201]: `▸` can be pretty picky so this isn't that surprising.

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 1 above)
Comment (mo271) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: resolving this to signify that this is ready for review, @eric-wieser

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 3]
```diff
@@ -185,25 +186,37 @@ theorem multiplicity_choose_aux {p n b k : ℕ} (hp : p.Prime) (hkn : k ≤ n) :
     _ = _ := by simp [sum_add_distrib, sum_boole]
 #align nat.prime.multiplicity_choose_aux Nat.Prime.multiplicity_choose_aux
 
+/-- The multiplicity of `p` in `choose (n + k) k` is the number of carries when `k` and `n`
+  are added in base `p`. The set is expressed by filtering `Ico 1 b` where `b`
+  is any bound greater than `log p (n + k)`. -/
+theorem multiplicity_choose' {p n k b : ℕ} (hp : p.Prime)  (hnb : log p (n + k) < b) :
```
Comment (kmill) [inline Mathlib/Data/Nat/Multiplicity.lean:192]:
```suggestion
theorem multiplicity_choose' {p n k b : ℕ} (hp : p.Prime) (hnb : log p (n + k) < b) :
```

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 4]
```diff
@@ -185,25 +186,37 @@ theorem multiplicity_choose_aux {p n b k : ℕ} (hp : p.Prime) (hkn : k ≤ n) :
...
+    multiplicity p (choose (n + k) k) =
+      ((Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card := by
+  have h₁ :
+    multiplicity p (choose (n + k) k) + multiplicity p (k ! * n !) =
+      ((Finset.Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card +
+        multiplicity p (k ! * n !) := by
```
Comment (kmill) [inline Mathlib/Data/Nat/Multiplicity.lean:198]:
```suggestion
      multiplicity p (choose (n + k) k) + multiplicity p (k ! * n !) =
        ((Finset.Ico 1 b).filter fun i => p ^ i ≤ k % p ^ i + n % p ^ i).card +
          multiplicity p (k ! * n !) := by
```

**Review by kmill — COMMENTED** [review]
Thanks!

bors r+
